US07531532B2
4-{2-Fluoro-4-[3-(2-phenylacetyl)thioureido]phenoxy}-2-{[4-(pyrrolidin-1-yl)piperidin-1-yl]carbonylamino}pyridine
2-Amino-4-{2-fluoro-4-[3-(2-phenylacetyl)thioureido]phenoxy}pyridine (66.6 mg) was dissolved in tetrahydrofuran (2.0 ml) under a nitrogen atmosphere, and then N-methylmorpholine (0.0462 ml) and phenyl chloroformate (0.0527 ml) in this order were added dropwise thereto while cooling in an ice bath, followed by raising the temperature up to room temperature and stirring for 15 min. The solvent was evaporated to give a residue, which was dissolved in N,N-dimethylformamide (2.0 ml), and then 4-(pyrrolidin-1-yl)piperidine (136 mg) was added thereto at room temperature, followed by stirring for 2 hr. The reaction mixture was partitioned between ethyl acetate and a saturated aqueous solution of sodium hydrogencarbonate. The organic layer was washed with a saturated aqueous solution of sodium hydrogencarbonate and brine in this order, and dried over anhydrous sodium sulfate. The solvent was evaporated to give a residue, which was then purified by silica gel column chromatography (Fuji Silysia NH, eluent; ethyl acetate:methanol=95:5). Fractions containing the target compound were concentrated under a reduced pressure to give a residue, which was dried in vacuum to provide the titled compound (46.3 mg, 48%) as white powder.

reactant | 2-Amino-4-{2-fluoro-4-[3-(2-phenylacetyl)thioureido]phenoxy}pyridine | 66.6 mg | NC1=NC=CC(=C1)OC1=C(C=C(C=C1)NC(=S)NC(CC1=CC=CC=C1)=O)F | C20H17FN4O2S
reactant | N-methylmorpholine | 0.0462 ml | CN1CCOCC1 | C5H11NO
reactant | phenyl chloroformate | 0.0527 ml | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | 4-(pyrrolidin-1-yl)piperidine | 136 mg | N1(CCCC1)C1CCNCC1 | C9H18N2
solvent | tetrahydrofuran | 2.0 ml | O1CCCC1 | C4H8O
solvent | N,N-dimethylformamide | 2.0 ml | CN(C=O)C | C3H7NO
product | 4-{2-Fluoro-4-[3-(2-phenylacetyl)thioureido]phenoxy}-2-{[4-(pyrrolidin-1-yl)piperidin-1-yl]carbonylamino}pyridine | 46.3 mg, 48% | FC1=C(OC2=CC(=NC=C2)NC(=O)N2CCC(CC2)N2CCCC2)C=CC(=C1)NC(=S)NC(CC1=CC=CC=C1)=O | C30H33FN6O3S
